US04735957
To a suspension of 2-amino-4-methyl-5-acetylthiazole (15.6 g) in 30% of hydrogen bromide in acetic acid (120 ml) was added pyridinium hydrobromide perbromide (36 g) at ambient temperature and the mixture was stirred at the same temperature for 5 hours. The precipitate was collected by filtration, washed with diisopropyl ether, and dried over calcium chloride to give 2-amino-4-methyl-5-(2-bromoacetyl)thiazole hydrobromide (26.8 g).

reactant | 2-amino-4-methyl-5-acetylthiazole | 15.6 g | NC=1SC(=C(N1)C)C(C)=O | C6H8N2OS
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-methyl-5-(2-bromoacetyl)thiazole hydrobromide | 26.8 g | Br.NC=1SC(=C(N1)C)C(CBr)=O | InChI=1S/C6H7BrN2OS.BrH/c1-3-5(4(10)2-7)11-6(8)9-3;/h2H2,1H3,(H2,8,9);1H
